US04552882
Preparation of 7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (stage C)
4.6 Grams of ethyl 7-acetamido-4-hydroxy-3-quinolinecarboxylate are dissolved in 15 ml of 10% NaOH, 60 ml of H2O and 100 ml of ethanol, and 5 ml of ethyl bromide are added. The mixture is left under reflux for 4 hours, then the excess of ethyl bromide and ethanol is evaporated off, and 10 ml of 10% NaOH are then added. The mixture is heated under reflux for 2 hours, allowed to cool, acidified with HCl, filtered and treated with ethanol at 70° C. The product is filtered off and recrystallized in a dimethylformamide/water (1:1) mixture. 1.0 Gram of a solid is obtained, of melting point 304°-307° C.

reactant | ethyl 7-acetamido-4-hydroxy-3-quinolinecarboxylate | C(C)(=O)NC1=CC=C2C(=C(C=NC2=C1)C(=O)OCC)O | C14H14N2O4
reactant | H2O | 60 ml | O | H2O
reactant | ethanol | 100 ml | C(C)O | C2H6O
reactant | ethyl bromide | 5 ml | C(C)Br | C2H5Br
solvent | NaOH | 15 ml | [OH-].[Na+]
product | 7-amino-1-ethyl-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | NC1=CC=C2C(C(=CN(C2=C1)CC)C(=O)O)=O | C12H12N2O3
